US07846960B2
4′-Benzyloxy-biphenyl-3-carboxylic Acid Ethyl Ester
To a solution of ethyl-3-iodobenzoate (2.5 g, 1 equiv) in ethylene glycol dimethyl ether (20 mL) are added 2 M sodium carbonate solution (40 mL), 4-benzyloxybenzene boronic acid (2.5 g, 1.2 equiv) and tetrakistriphenylphosphine palladium(0) (1.05 g, 0.1 equiv). The reaction mixture is heated to reflux for 2 h. The reaction mixture is allowed to cool to room temperature and is diluted with 300 mL 50% sodium bicarbonate solution. The product is extracted three times with methylene chloride. The combined organic layers are dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue is purified via flash chromatography eluting with ethyl acetate/hexanes (2:98 to 8:92) to give the desired product (2.3 g, 76%) as a white solid.

reactant | ethyl-3-iodobenzoate | 2.5 g, 1 equiv | C(C)OC(C1=CC(=CC=C1)I)=O | C9H9IO2
reactant | sodium carbonate | 2 M, 40 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-benzyloxybenzene boronic acid | 2.5 g, 1.2 equiv | C(C1=CC=CC=C1)OC1=CC=C(C=C1)B(O)O | C13H13BO3
solvent | ethylene glycol dimethyl ether | 20 mL | COCCOC | C4H10O2
solvent | sodium bicarbonate | 300 mL | C([O-])(O)=O.[Na+]
product | 4′-Benzyloxy-biphenyl-3-carboxylic Acid Ethyl Ester | 2.3 g, 76% | C(C)OC(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C22H20O3
